US09371321B2
Preparation 1: tert-Butyl (S)-4-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate
To a 50 mL pear flask were added tert-butyl piperazine-1-carboxylate (2.44 g, 12.7 mmol) and (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (1.54 g, 6.06 mmol) in 1,4-dioxane (15 mL). To this solution was added potassium 2-methylpropan-2-olate (1 M in THF) (13.3 mL, 13.3 mmol), and the resulting mixture was heated to 90° C. for 45 minutes. After cooling for 10 minutes, the red mixture was poured into saturated NaHCO3 (300 mL) and then extracted with EtOAc (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give crude product, which was purified by preparative HPLC (acid mode, 25-65% ACN/water gradient). The product-containing fractions were combined, concentrated in vacuo, and then partitioned between saturated NaHCO3 and EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound (872 mg, 40.0%). ESI-MS m/z [M+H]+ calc'd for C19H29N5O2, 360. found 360.

reactant | tert-butyl piperazine-1-carboxylate | 12.7 mmol, 2.44 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 6.06 mmol, 1.54 g | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | potassium 2-methylpropan-2-olate | 13.3 mmol, 1 M, 13.3 mL | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (S)-4-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate | 872 mg, 40.0% | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CC2)C(=O)OC(C)(C)C | C19H29N5O2
